US07902248B2
3-Nitro-1-propyl-1H-pyrazole (92 mg, 0.59 mmol) was dissolved in ethyl acetate (3 mL) and methanol (3 mL) was added. Palladium, 10 wt. % on carbon, wet (˜50 mg) was added to the mixture. The vial was charged with hydrogen gas (via balloon) and the mixture stirred for 16 h at 25° C. The mixture was passed through a plug of celite and concentrated in vacuo followed by purification by flash column chromatography (Merck silica gel 60, 40-63 μm; 25% ethyl acetate/hexanes to 70% ethyl acetate/hexanes) afforded 1-propyl-1H-pyrazol-3-ylamine (54 mg, 73%) as a golden oil: LC-MS (ESI) m/e calcd for C6H11N3 [M+] 125.10, found 126.3 [M+H+], 251.3 [2M+H+].

reactant | 3-Nitro-1-propyl-1H-pyrazole | 0.59 mmol, 92 mg | [N+](=O)([O-])C1=NN(C=C1)CCC | C6H9N3O2
reactant | methanol | 3 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium | [Pd] | Pd
product | 1-propyl-1H-pyrazol-3-ylamine | 54 mg, 73% | C(CC)N1N=C(C=C1)N | C6H11N3
